US06056895
25.2 g of lithium aluminium hydride were introduced into 100 ml of THF, and a solution of 54.2 g of methyl (4-propylidenecyclohexyl)acetate in 200 ml of THF was then added dropwise with stirring at such a rate that the reaction boiled gently. The mixture was then refluxed for a further 3 h, cooled to RT and hydrolysed dropwise with 50 ml of water. 18% hydrochloric acid was then added until the precipitate formed had dissolved. Conventional work-up gave 2-(4-propylidenecyclohexyl)ethanol (boiling point 110° C. at 10 mmHg).

reactant | lithium aluminium hydride | 25.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl (4-propylidenecyclohexyl)acetate | 54.2 g | C(CC)=C1CCC(CC1)CC(=O)OC | C12H20O2
reactant | water | 50 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 2-(4-propylidenecyclohexyl)ethanol | C(CC)=C1CCC(CC1)CCO | C11H20O
